US07968570B2
4-Fluoro-2-methylbenzonitrile
5-Fluoro-2-iodotoluene (3 g, 12.7 mmol) was stirred in DMF (40 mL) under argon and Zn(CN)2 (1.94 g, 16.5 mmol) and Pd(PPh3)4 (1.47 g, 1.27 mmol) were added. The reaction was stirred at 80° C. for 1.5 hours. The reaction was partitioned between ethyl acetate and water and the organic layer was washed with brine and dried over anhydrous Na2-SO4. The solvent was removed under reduced pressure to afford a yellow solid (2.90 g), confirmed by GC MS.

reactant | 5-Fluoro-2-iodotoluene | 12.7 mmol, 3 g | FC=1C=CC(=C(C1)C)I | C7H6FI
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 16.5 mmol, 1.94 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 1.27 mmol, 1.47 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Fluoro-2-methylbenzonitrile | 2.90 g | FC1=CC(=C(C#N)C=C1)C | C8H6FN
